US08492559B2
Stage (i): tert-Butyl 3-(6-(piperidin-1-ylmethyl)-3,4-dihydroisoquinolin-2(1H)-yl)pyrrolidine-1-carboxylate
6-(Piperidin-1-ylmethyl)-1,2,3,4-tetrahydroisoquinoline dihydrochloride (0.5 g, 1.65 mmol), triethylamine (0.57 ml, 4.12 mmol) and tert-butyl 3-oxopyrrolidine-1-carboxylate (305 mg, 1.65 mmol) were dissolved in 1,2-dichloroethane (13 ml), and sodium triacetoxyborohydride (480 mg, 2.309 mmol) was added. The reaction mixture was stirred for 2 h, and then sat. sodium hydrogen carbonate solution was added. After phase separation, the aqueous phase was extracted with dichloromethane (2×). The combined organic phases were washed with sat. sodium chloride solution (1×), dried over magnesium sulfate and concentrated under vacuum. The crude product was purified by column chromatography (silica gel, ethyl acetate/methanol/ammonia (25% aq.) (200:20:1). Yield: 0.55 g (83%)

reactant | 6-(Piperidin-1-ylmethyl)-1,2,3,4-tetrahydroisoquinoline dihydrochloride | 1.65 mmol, 0.5 g | Cl.Cl.N1(CCCCC1)CC=1C=C2CCNCC2=CC1
reactant | triethylamine | 4.12 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 1.65 mmol, 305 mg | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | sodium triacetoxyborohydride | 2.309 mmol, 480 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 13 ml | ClCCCl | C2H4Cl2
product | tert-Butyl 3-(6-(piperidin-1-ylmethyl)-3,4-dihydroisoquinolin-2(1H)-yl)pyrrolidine-1-carboxylate | N1(CCCCC1)CC=1C=C2CCN(CC2=CC1)C1CN(CC1)C(=O)OC(C)(C)C | C24H37N3O2
